US04276417
3.0 g. of 7-amino-5-diallylamino-2H-[1,2,4]oxadiazolo[2,3-a]-s-triazin-2-one are dissolved in 120 ml. of acetone and treated with 6 ml. of methyl chloroacetate and 15 g. of potassium carbonate. The mixture is stirred for 52 hours and then evaporated to dryness. The residue is dissolved in methylene chloride and water and then extracted twice with methylene chloride. The combined organic extracts are dried over potassium carbonate and evaporated under reduced pressure. The residue is chromatographed over silica gel using a 0.5% mixture of methanol in methylene chloride for the elution, there being obtained dimethyl {(5-diallylamino-2-oxo-2H-[1,2,4]oxadiazolo[2,3-a]-s-triazin-7-yl)imino}diacetate. Pure substance is produced by recrystallization from diisopropyl ether; melting point 93°-95° C.

reactant | 7-amino-5-diallylamino-2H-[1,2,4]oxadiazolo[2,3-a]-s-triazin-2-one | NC1=NC(=NC=2N1OC(N2)=O)N(CC=C)CC=C | C10H12N6O2
reactant | methyl chloroacetate | ClCC(=O)OC | C3H5ClO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | CC(=O)C | C3H6O
product | dimethyl {(5-diallylamino-2-oxo-2H-[1,2,4]oxadiazolo[2,3-a]-s-triazin-7-yl)imino}diacetate | C(C=C)N(C1=NC=2N(C(=N1)N(CC(=O)OC)CC(=O)OC)OC(N2)=O)CC=C | C16H20N6O6
